US05614535
0.41 g of tert-butyl 1-[3-(4-amidinophenyl)-2-oxo-5-oxazolidinylcarbonyl}piperidin-4-yl-carboxylate is stirred in 40 ml of ethereal HCl solution at room temperature for 2 h. The precipitate formed is filtered off with suction and washed with 20 ml of ether. The product is then treated with 5 ml of acetonitrile at 60° for 10 min, the mixture is cooled to room temperature, and the product is filtered off with suction and washed with a little acetonitrile. 1-[3-(4-amidinophenyl)-2-oxo-5-oxazolidinylcarbonyl]piperidine-4-carboxylic acid, hydrochloride, m.p. 184° (decomposition), is obtained.

reactant | tert-butyl 1-[3-(4-amidinophenyl)-2-oxo-5-oxazolidinylcarbonyl}piperidin-4-yl-carboxylate | 0.41 g | C(N)(=N)C1=CC=C(C=C1)N1C(OC(C1)C(=O)N1CCC(CC1)C(=O)OC(C)(C)C)=O | C21H28N4O5
reactant | HCl | 40 ml | Cl | ClH
product | 1-[3-(4-amidinophenyl)-2-oxo-5-oxazolidinylcarbonyl]piperidine-4-carboxylic acid, hydrochloride | Cl.C(N)(=N)C1=CC=C(C=C1)N1C(OC(C1)C(=O)N1CCC(CC1)C(=O)O)=O | InChI=1S/C17H20N4O5.ClH/c18-14(19)10-1-3-12(4-2-10)21-9-13(26-17(21)25)15(22)20-7-5-11(6-8-20)16(23)24;/h1-4,11,13H,5-9H2,(H3,18,19)(H,23,24);1H
